US06995144B2
3-[4-[2-(2-Fluorophenyl)acetyl]-4-methylpiperidino]methyl-1H-pyrazin-2-one
After dissolving 135 mg of 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)-4-methylpiperidin-4-yl]-2-(2-fluorophenyl)ethanone in 2 ml of ethyl acetate, 2 ml of 4N hydrogen chloride/ethyl acetate was added while stirring on ice. After 1 hour, saturated aqueous sodium bicarbonate solution was added to the reaction solution and extraction was performed with dichloromethane. The extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. Diethyl ether was added to the residue and the mixture was filtered to obtain the title compound (94 mg, 86% yield).

reactant | 1-[1-(3-tert-butoxy-2-pyrazinylmethyl)-4-methylpiperidin-4-yl]-2-(2-fluorophenyl)ethanone | 135 mg | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)(C)C(CC1=C(C=CC=C1)F)=O | C23H30FN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | hydrogen chloride ethyl acetate | 4N, 2 ml | Cl.C(C)(=O)OCC
product | 3-[4-[2-(2-Fluorophenyl)acetyl]-4-methylpiperidino]methyl-1H-pyrazin-2-one | 94 mg, 86% yield | FC1=C(C=CC=C1)CC(=O)C1(CCN(CC1)CC=1C(NC=CN1)=O)C | C19H22FN3O2
